US07893058B2
Step 1: 2-Fluoro-3-iodo-6-(trifluoromethyl)pyridine
A solution of N,N-diisopropylamine (1.4 mL, 10.0 mmol) in anhydrous THF (15 mL) is cooled under N2 to −78° C. and nBuLi (2.5 M in hexanes, 4.0 mL, 10.0 mmol) is added dropwise at a rate to maintain the temperature below −65° C. A solution of 2-fluoro-6-(trifluoromethyl)pyridine (1.65 g, 10.0 mmol) in anhydrous THF (15 mL) is added dropwise over 10 min and the resulting orange solution is stirred for 2 h at −78° C. Iodine (2.54 g, 10.0 mmol) in anhydrous THF (12.5 mL) is then added dropwise over 15 min (keeping the temperature under −65° C.), causing the colour of the solution to change to red-brown and a precipitate to form. After 30 min the mixture is allowed to warm to 10° C. and the solvent is evaporated under reduced pressure. The residue is diluted with diethyl ether (25 mL) and washed with Na2S2O3 (2 M aq., 10 mL), HCl (2 M aq., 2×12.5 mL), NaHCO3 (sat. aq., 12.5 mL) and brine (12.5 mL). The organic solvents are dried over Na2SO4 and evaporated under reduced pressure to afford a yellow oil. The product is purified by silica chromatography, eluting with cyclohexane, to afford the title compound as a white solid (1.36 g). Alternatively, this compound may be used directly in the next step without further purification.

reactant | N,N-diisopropylamine | 10.0 mmol, 1.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 10.0 mmol, 2.5 M, 4.0 mL | [Li]CCCC
reactant | 2-fluoro-6-(trifluoromethyl)pyridine | 10.0 mmol, 1.65 g | FC1=NC(=CC=C1)C(F)(F)F | C6H3F4N
reactant | Iodine | 10.0 mmol, 2.54 g | II | I2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 12.5 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-3-iodo-6-(trifluoromethyl)pyridine | 1.36 g | FC1=NC(=CC=C1I)C(F)(F)F | C6H2F4IN
